US08623889B2
1-(7-(5-fluoro-2-methylphenyl)isoquinolin-3-yl)-3-isopropylurea
To a solution of 7-(5-fluoro-2-methylphenyl)isoquinolin-3-amine (0.10 g, 0.40 mmol) in tetrahydrofuran (2 mL) was added pyridine (0.1 mL). The mixture was cooled to 0° C. and triphosgene (59.4 mg, 0.20 mmol) in tetrahydrofuran (2 mL) was added dropwise. After the reaction mixture was stirred for 1 h, propan-2-amine (0.10 g, 1.7 mmol) was added and the mixture was stirred for 2 h. The reaction was quenched with methanol (2.0 mL), and the mixture was purified by preparative TLC (Hexanes/ethyl acetate=1:1) to give the desired product (20.6 mg, 15%). LCMS (ESI): RT (min)=1.163, M+H+=338.1, method=A; 1H NMR (DMSO-d6, 400 MHz): δ 9.05 (s, 1H), 8.94 (s, 1H), 8.09 (s, 1H), 7.95 (t, J=0.8 Hz, 1H), 7.83 (d, J=8.8 Hz, 1H), 7.64 (dd, J=1.6, 8.8 Hz, 1H), 7.37-7.33 (m, 1H), 7.15-7.11 (m, 1H), 6.89 (d, J=6.8 Hz, 1H), 3.83-3.78 (m, 1H), 2.22 (s, 3H), 1.13 (d, J=6.6 Hz, 6H).

reactant | 7-(5-fluoro-2-methylphenyl)isoquinolin-3-amine | 0.40 mmol, 0.10 g | FC=1C=CC(=C(C1)C1=CC=C2C=C(N=CC2=C1)N)C | C16H13FN2
reactant | pyridine | 0.1 mL | N1=CC=CC=C1 | C5H5N
reactant | triphosgene | 0.20 mmol, 59.4 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | propan-2-amine | 1.7 mmol, 0.10 g | CC(C)N | C3H9N
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 1-(7-(5-fluoro-2-methylphenyl)isoquinolin-3-yl)-3-isopropylurea | 20.6 mg, 15% | FC=1C=CC(=C(C1)C1=CC=C2C=C(N=CC2=C1)NC(=O)NC(C)C)C | C20H20FN3O
